US08372865B2
7-Amino-6-bromo-3,4-dihydro-1H-quinolin-2-one 280 mg (1.16 mmol) was dissolved in 8 ml THF and cooled to 0° C. KHMDS (2.56 ml, 1.27 mmol, 0.5 M in toluene) was then added dropwise, followed by dropwise addition of 80 ml (1.27 mmol) CH3I. The mixture was stirred for 12 hours, then partitioned between ethyl acetate and brine. The organic layer was dried over MgSO4 filtered and concentrated under reduced pressure. Purification by column chromatography, eluting with 75% ethyl acetate/hexanes, provided 265 mg of 7-amino-6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one.

reactant | 7-Amino-6-bromo-3,4-dihydro-1H-quinolin-2-one | 1.16 mmol, 280 mg | NC1=C(C=C2CCC(NC2=C1)=O)Br | C9H9BrN2O
reactant | KHMDS | 1.27 mmol, 0.5 M, 2.56 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | CH3I | 1.27 mmol, 80 ml | CI | CH3I
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 7-amino-6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one | 265 mg | NC1=C(C=C2CCC(N(C2=C1)C)=O)Br | C10H11BrN2O
